US05403816
Preparation of 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pyrrolidinyl)picolinic acid (Compound No. 318)
1.44 g (4 mmol) of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pyrrolidinyl)picolinate and 0.67 g (12 mmol) of potassium hydroxide were added to 30 ml of methanol, 30 ml of 1,2-dimethoxyethane and 10 ml of water, and the mixture was reacted at 40° C. for 4 hours. The solvent was distilled off, and water was added to the residue. The mixture was acidified (pH=4) by 10% hydrochloric acid, then extracted with chloroform and ethyl acetate, dried and concentrated, and then crystallized from diisopropyl ether to obtain the desired product.

reactant | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pyrrolidinyl)picolinate | 4 mmol, 1.44 g | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N1CCCC1)C(=O)OC | C17H20N4O5
reactant | potassium hydroxide | 12 mmol, 0.67 g | [OH-].[K+]
reactant | methanol | 30 ml | CO | CH4O
reactant | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
product | 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(1-pyrrolidinyl)picolinic acid | yield: 94% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N1CCCC1)C(=O)O | C16H18N4O5
